US04687775
2-[(imidazo[1,2-a]pyridin-5-ylmethyl)thio]-1H-benzimidazole
To a cold (ca. 0°) solution of 86.4 g (0.88 mole) of 2-amino-6-methylpyridine and 101 g (0.96 mole) of triethylamine in 1.0 liter of dichloromethane was added dropwise a solution of 106.1 g (0.88 mole) of trimethylacetyl chloride in 100 ml of dichloromethane. After stirring an hour after addition was completed, the mixture was poured into water and the layers separated. The aqueous layer was extracted with dichloromethane. The organic layers were combined and washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil that crystallized upon standing. The solid was triturated with hexane and collected by filtration, giving 115 g of 2-(trimethylacetamido)-6-methylpyridine. A 22.6 g (0.12 mmole) portion of the amide derivative was suspended in 250 ml of carbon tetrachloride containing 22.9 g (0.12 mmole) of N-bromosuccinimide and 100 mg of 2,2'-azobisisobutyronitrile. The mixture was heated at reflux under a sun lamp for one hour, after which insolubles were removed by filtration. The filtrate was concentrated in vacuo to an oil consisting of a mixture of the 6-bromomethyl-2-(trimethylacetamido)pyridine and 6-dibromomethyl-2-(trimethylacetamido)pyridine derivatives. The crude mixture was heated at reflux for fifteen minutes with 11.7 g (78 mmole) of 2-mercaptobenzimidazole in 300 ml of isopropyl alcohol. Upon cooling, a precipitate formed and was collected and washed with portions of isopropyl alcohol and diethyl ether. The trimethylacetyl group was removed by heating at reflux for four hours in 300 ml of 10% aqueous hydrochloric acid. After cooling, the mixture was concentrated in vacuo to an oil. The oil was dissolved in water and made alkaline with aqueous potassium carbonate. The oil that separated solidified upon addition of dichloromethane to the aqueous mixture. The solid was collected by filtration, washed with portions of water and dichloromethane, and air dried to yield 9.6 g of analytically pure 6-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate. (An additional 2.5 g of the title compound was isolated from the dichloromethane washes.) [Structure assignment was supported by the nmr and infrared spectra and by elemental analysis. Calcd. for C13H12N4S.1/2H2O: C, 58.84; H, 4.93; N, 21.11; S, 12.08. Found: C, 59.03; H, 4.40; N, 20.90; S, 12.30.] A mixture of 4.0 g (15.6 mmole) of 6-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate, 3.0 ml of 50% aqueous chloroacetaldehyde, and 2.5 g of sodium bicarbonate in ethanol was stirred at room temperature. After one day the mixture was filtered and the filtrate was concentrated in vacuo. Addition of dichloromethane induced crystallization. The solid was collected and air dried to yield 4.1 g of the title compound. Structure assignment was supported by the nmr and infrared spectra.

reactant | 6-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate | 15.6 mmole, 4.0 g | O.N1C(=NC2=C1C=CC=C2)SCC2=CC=CC(=N2)N.N2C(=NC1=C2C=CC=C1)SCC1=CC=CC(=N1)N
reactant | chloroacetaldehyde | 3.0 ml | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(imidazo[1,2-a]pyridin-5-ylmethyl)thio]-1H-benzimidazole | 4.1 g | N=1C=CN2C1C=CC=C2CSC2=NC1=C(N2)C=CC=C1 | C15H12N4S
